US06316637B1
1-Methyl-4-bromo-5-aminobenzimidazole. To a solution of
1-methyl-5-aminobenzimidazole (0.36 g, 2.4 mmol) in 10 ml of AcOH was added Br2 (0.12 ml). The reaction mixture was stirred for 1 h at 25° C. and concentrated in vacuo, yielding an oil which was subjected to column chromatography (NH3 sat'd 3% MeOH/CHCl3) to yield 0.27 g (1.2 mmol, 50%) of the desired product.

reactant | 1-methyl-5-aminobenzimidazole | 2.4 mmol, 0.36 g | CN1C=NC2=C1C=CC(=C2)N | C8H9N3
reactant | Br2 | 0.12 ml | BrBr | Br2
reactant | NH3 | N | H3N
solvent | AcOH | 10 ml | CC(=O)O | C2H4O2
product | 1-Methyl-4-bromo-5-aminobenzimidazole | 1.2 mmol, 0.27 g, 50% | CN1C=NC2=C1C=CC(=C2Br)N | C8H8BrN3
